US05281598
To a stirred solution of 1-[(phenylmethoxy)acetyl]-4-(3-phenylpropionyl)piperazine (193 g) in tetrahydrofuran (967 ml) under a nitrogen atmosphere, was added a molar solution of borane-tetrahydrofuran complex solution in tetrahydrofuran (2.4 l) and the mixture was refluxed for 1 h. The residual borane reagent was destroyed by dropwise addition of 5N hydrochloric acid solution (430 ml) and the tetrahydrofuran was removed by distillation. The cooled reaction mixture was basified with sodium hydroxide solution, the product was extracted with ethyl acetate, and the solvents were evaporated in vacuo, after which 1-[2-(phenylmethoxy)ethyl]-4-(3-phenylpropyl)piperazine (178 g) was obtained.

reactant | 1-[(phenylmethoxy)acetyl]-4-(3-phenylpropionyl)piperazine | 193 g | C1(=CC=CC=C1)COCC(=O)N1CCN(CC1)C(CCC1=CC=CC=C1)=O | C22H26N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 967 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.4 l | O1CCCC1 | C4H8O
product | 1-[2-(phenylmethoxy)ethyl]-4-(3-phenylpropyl)piperazine | 178 g | C1(=CC=CC=C1)COCCN1CCN(CC1)CCCC1=CC=CC=C1 | C22H30N2O
